US04129561
dl-3-Benzylamino-1-indanol (Alternative procedure)
Cool a solution of benzylamine (3.22 g.) in dry ether (25 ml.) to below 0° C. With stirring under nitrogen add a cooled (below 0° C.) solution of 3-bromo-1-indanone (3.17 g.) in ether (25 ml.) dropwise over 1.5 hours. Store the reaction under nitrogen at -10° C. for one day. Quickly filter the cold solution and add it cold to a stirring solution of one molar borane in tetrahydrofuran (60 ml.) below 0° C. and under nitrogen. Stir the solution for 18 hours at room temperature. Carefully add a solution of water (3.24 ml.) in tetrahydrofuran (20 ml.) dropwise, followed by 8.0 ml. of 5M isopropanolic --HCl, and continue stirring overnight. Store the reaction at -10° C. overnight, then filter the precipitate through filter-aid. Extract the dry solid mixture with methanol-methylene chloride, filter and evaporate the solvents in vacuo. Triturate the resulting solid with cold ethyl acetate, filter and dry to obtain 2.36 g. of the title product as the hydrochloride salt, m.p. 233-235°. λmaxKBr 3.0 μ (OH).

reactant | benzylamine | 3.22 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-bromo-1-indanone | 3.17 g | BrC1CC(C2=CC=CC=C12)=O | C9H7BrO
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 3-Benzylamino-1-indanol | C(C1=CC=CC=C1)NC1CC(C2=CC=CC=C12)O | C16H17NO
